US09029366B2
A solution of (2-benzyloxy-7,8-dihydro-4H,6H-1,5,8a-triaza-azulen-5-yl)-(4-fluoro-phenyl)-methanone (0.902 g, 2.47 mmol) in a mixture of AcOEt/DMF (25/25 mL) was hydrogenated in a H-Cube reactor (1.5 ml/min, 70 mm, Pd(OH)2/C cartridge, full H2 mode, 80° C., 1 cycle). The solvents were evaporated in vacuo to yield (4-Fluoro-phenyl)-(2-hydroxy-7,8-dihydro-4H,6H-1,5,8a-triaza-azulen-5-yl)-methanone (0.63 g, 93% yield) as a colorless oil, that was used in the next step without further purification.

reactant | (2-benzyloxy-7,8-dihydro-4H,6H-1,5,8a-triaza-azulen-5-yl)-(4-fluoro-phenyl)-methanone | 2.47 mmol, 0.902 g | C(C1=CC=CC=C1)OC1=NN2CCCN(CC2=C1)C(=O)C1=CC=C(C=C1)F | C21H20FN3O2
solvent | AcOEt DMF | 25 mL | CCOC(=O)C.CN(C)C=O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | (4-Fluoro-phenyl)-(2-hydroxy-7,8-dihydro-4H,6H-1,5,8a-triaza-azulen-5-yl)-methanone | 0.63 g, 93% yield | FC1=CC=C(C=C1)C(=O)N1CC2=CC(=NN2CCC1)O | C14H14FN3O2
